Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
headache
 
Major Surgical or Invasive Procedure:
___ guided Lumbar puncture

 
History of Present Illness:
The patient is a ___ woman
who presents with headaches for 1 month. History is obtained 
from
the patient as well as from documentation from Drs. ___.

She has never had headaches before ___. Symptoms began
with right ear infection in ___ treated with amoxicillin for
10 days. She subsequently developed pain in the left ear which
was sharp (unlike right ear which was pressure-like pain), and
___ intensity. ENT evaluated left ear and found it was normal.
She initially treated her headaches with ibuprofen 600mg Q6H
along with Tylenol ___ Q6H. 

Since then she continues to have bitemportal and supra-auricular
headache, pressure sensation, mild and barely noticeable. 
However
in ___ her head pressure gradually became more intense and
is now painful as of the 2 weeks. The pain is pulsating along
with heartbeat, and worsens when she goes up stairs or does any
activity. The pulsing is also worse when lying flat or with
Valsalva maneuver, eg laughing, or when bending over. It is also
worse after sex. It's making her significantly anxious as well.
No fevers (she measures). No night sweats. 

She feels like her field of vision is pulsating as well, which
she describes as "narrows with the pulsation". No double vision,
but does feel it's slightly blurry and takes more time to focus.
Has had flashes in her vision "like confetti" since she was ___. 

She had full eye exam in late ___ which was normal, but she
did not have eye symptoms at the time. She had an evaluation at
___ Eye and Ear, and no evidence of sinus disease 
could
be found. Evaluation included a CT scan of her head and negative
EBV
testing. 

When seen by Drs. ___, she had a normal exam,
including fundoscopy and visual fields. An MRI was obtained,
including with MPRAGE sequences, and was normal.

However, due to ongoing symptoms and concern for vascular
pathology, IIH, etc. she is referred to the ED for further
evaluation. 

On my interview, she confirms the history as above. She 
continues
to complain of a mild holocephalic "pressure" sensation, which 
is
worse when lying flat. Headache is essentially constant. It
improves when standing but does not completely go away. She
states she is sleeping poorly recently, but it does not seem 
that
the headaches wake her from sleep, per se. She usually wakes up
with a headache, and it worsens throughout the day. Regarding 
her
dyspnea, she reports feeling "winded" after climbing stairs or
otherwise exerting herself. There is no limitation in how far 
she
can walk, or how many stairs she can climb. She occasionally
feels lightheaded after climbing stairs but this is very brief.
She has not lost consciousness. She has had very brief
palpitations though again these are brief. 
 
Past Medical History:
Severe scoliosis during childhood, corrected at ___. Has cervical
through thoracic fusion, ___. 
Eczema
+Car sickness as a child
 
Social History:
___
Family History:
Mother with migraines. Maternal grandfather with strokes. No
bleeding or clotting disorders. Aunt with fibromyalgia. Sister
with thyroid disease. 
 
Physical Exam:
Admission Physical Examination:
Vitals: T: 98.7 P: 85 R: 18  BP: 125/73 SaO2: 98% room air
*when ambulated around ED, no tachycardia or change in O2 sat
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple. Mild tenderness of cervical spine and paraspinal
muscles, no spasm. 
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive to interview and exam. Language is
fluent with intact repetition and comprehension. Normal prosody.
There were no paraphasic errors. Speech was not dysarthric. Able
to follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.
-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Visual acuity
___ bilaterally. Fundoscopic exam revealed very slight 
blurring
of the nasal margins of the optic discs bilaterally
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.
-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___   ___  5   5    5  5     5     5   
R  5    ___   ___  5   5    5  5     5     5   
-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.
-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.
-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.
-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

========================================================

Discharge Physical Exam:
24 HR Data (last updated ___ @ 007)
    Temp: 97.9 (Tm 98.3), BP: 116/78 (100-116/58-78), HR: 83
(72-98), RR: 16 (___), O2 sat: 94% (94-97), O2 delivery: Ra  

General: young woman sitting up comfortably in bed, NAD
HEENT: NC/AT
Cardiac: warm, well-perfused
Pulmonary: no increased work of breathing
Abdomen: soft, ND
Extremities: wwp, no C/C/E bilaterally
Skin: no rashes or lesions noted.  
Neurologic: 
-MS - awake, alert, oriented to self, hospital, date, situation.
Speech is fluent. Able to give history without difficulty. 
-CN- PERRL 3-2 mm, visual acuity ___ OS, ___ OD. Slightly
blurry nasal margins on L optic disk, +venous pulsations. EOMI,
no nystagmus. Pain when moving L eye to L or up. No facial
asymmetry. V1, V2, V3 intact, equal to light touch b/l. 
Symmetric
palate elevation. tongue midline. 
-Motor- normal bulk and tone. No tremor. No pronator drift. 
   [Delt] [Bic] [Tri] [ECR] [FEx] [IP] [Quad] [Ham] [TA] [Gas]
 L   5      5     5     5     5    5     5      5    5     5
 R   5      5     5     5     5    5     5      5    5     5
-Sensory: intact to soft touch. 
-Reflexes: deferred
-Coordination: intact FNF b/l. 
-Gait: deferred
 
Pertinent Results:
MRI brain with and wo cont ___: IMPRESSION: 
 
Normal brain MRI.  No evidence of dural venous sinus thrombosis.

MRA neck w/wo cont ___: IMPRESSION:
 
 
1. Normal neck MRA.
2. Patent internal jugular veins of the neck.  Apparent areas of 
narrowing of bilateral upper internal jugular veins at the level 
of C2 and C3 (the level of the lower parotid glands) may be 
artifactual, but could be further assessed by ultrasound if 
clinically warranted.

T-SPINE; LUMBO-SACRAL SPINE (AP & LAT) 
IMPRESSION: 
 
Thoracic and lumbar spine AP and lateral views demonstrate 
posterior spinal hardware extending from T4 to L3 on the right 
side and T5-L3 on the left side. No hardware related 
complications are seen.  There is mild thoracolumbar scoliosis.  
Heart size is within normal limits.  Visualized lung fields are 
grossly clear.  There are degenerative changes of the upper 
thoracic spine with anterior spurring.  There are no definite 
compression deformities. 
T-shaped IUD device is seen within the lower pelvis.

___ 08:52AM BLOOD WBC-18.3* RBC-4.21 Hgb-12.0 Hct-36.1 
MCV-86 MCH-28.5 MCHC-33.2 RDW-13.1 RDWSD-40.3 Plt ___
___ 11:40AM BLOOD WBC-13.1* RBC-4.66 Hgb-13.2 Hct-40.4 
MCV-87 MCH-28.3 MCHC-32.7 RDW-13.2 RDWSD-41.2 Plt ___
___ 08:52AM BLOOD Neuts-85.3* Lymphs-9.6* Monos-4.2* 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-15.58* AbsLymp-1.76 
AbsMono-0.76 AbsEos-0.00* AbsBaso-0.03
___ 08:52AM BLOOD ___ PTT-27.7 ___
___ 11:40AM BLOOD Glucose-80 UreaN-11 Creat-0.6 Na-140 
K-4.6 Cl-104 HCO3-25 AnGap-11
___ 08:52AM BLOOD ALT-16 AST-18
___ 11:40AM BLOOD cTropnT-<0.01
___ 11:40AM BLOOD proBNP-21
___ 11:40AM BLOOD Calcium-9.7 Phos-3.4 Mg-1.___ year old woman with a history of relatively new onset 
headaches since ___ of this year, which initially
began with an ear infection, but has since progressed to a 
nearly constant pressure-like pain, with pulsatile tinnitus and 
transient visual obscurations. Headaches seem to be worse when 
recumbent and with Valsalva. 
Her neurologic exam is non focal and her discs look good. 
Concern is for pseudotumor phenomenon/IIH. MRI/MRV was
unremarkable, except for possible bilateral jugular vein 
compression vs artifact. US of jugular veins was obtained and 
showed patent flow. LP showed OP of 16 and was overall bland. At 
this time will treat headache with course of steroids. Of note, 
patients was noted to have tonsillar hypertrophy which can cause 
OSA, she should follow up with ENT for this.

Transition Issues:
[] f/u with PCP
[] f/u with neurology
[] f/u with ENT about tonsillar hypertrophy
[] may need sleep study for possible OSA with very large tonsils
[] complete 7 day course of prednisone 60mg daily, with PPI ppx
 
Medications on Admission:
Mirena IUD 
Steroid cream for eczema
 
Discharge Medications:
1.  Omeprazole 40 mg PO DAILY Duration: 7 Days 
RX *omeprazole 40 mg 1 capsule(s) by mouth once a day Disp #*7 
Capsule Refills:*0 
2.  PredniSONE 60 mg PO DAILY Duration: 7 Days 
This is dose #  of  tapered doses
RX *prednisone 20 mg 3 tablet(s) by mouth once a day Disp #*21 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Headache
Leukocytosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital due to suspected increased 
intracranial pressure as the cause of headache. You underwent 
MRI/MRV of your head which did not show any abnormality.
You underwent an interventional radiology-guided lumbar 
puncture, which showed that your intracranial pressure is 
normal. We will treat your headache with steroids.

Medications: 
-prednisone 60mg daily for 7 days
-omeprazole 40 mg daily for 7 days while on steroids

Side effects of prednisone include insomnia, blood pressure 
elevation, high blood glucose and irritability. Please monitor 
for these symptoms.

Thank you for the opportunity to care for you. 

Sincerely, 

Your ___ Neurology Team
 
Followup Instructions:
___